US09315507B2
To a solution of tert-butyl 4-(2-(4-(adamantan-1-yl)phenoxy)acetyl)piperazine-1-carboxylate (0.15 g, 0.42 mmol), prepared from the example 29, in dichloromethane (1.5 mL) was added trifluoroacetic acid (0.15 g, 1.69 mmol) and stirred at room temperature overnight. The reaction mixture was concentrated and diluted with dichloromethane. The organic layer was washed with aqueous sodium bicarbonate and dried over anhydrous magnesium sulfate. The solvent was filtered and evaporated under reduced pressure to afford a crude solid, which was purified by silica gel column chromatography to give 2-(4-(adamantan-1-yl)phenoxy)-1-(piperazin-1-yl)ethanone as a white solid (0.11 g, 94.8% yield).

reactant | tert-butyl 4-(2-(4-(adamantan-1-yl)phenoxy)acetyl)piperazine-1-carboxylate | 0.42 mmol, 0.15 g | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OCC(=O)N3CCN(CC3)C(=O)OC(C)(C)C)C=C2 | C27H38N2O4
reactant | trifluoroacetic acid | 1.69 mmol, 0.15 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | 2-(4-(adamantan-1-yl)phenoxy)-1-(piperazin-1-yl)ethanone | 0.11 g, 94.8% yield | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OCC(=O)N3CCNCC3)C=C2 | C22H30N2O2
